US04128658
N-Methyl-1-methylthio-2-nitroethanamine
A solution of 2-[[[5-(methylamino)methyl-2-furanyl]methyl]thio]ethanamine (10 g, 0.05 mole) and N-methyl-1-methylthio-2-nitroetheneamine (7.4 g) in water (25 ml) was stirred at 50° for 2 hr. Acetone (350 ml) was added and the solvent was removed by distillation at atmospheric pressure until 275 ml of distillate had been collected. Ethanolic hydrogen chloride (2M; 27.5 ml) was added to the residue and the solution was stirred overnight at room temperature. The product (11.0 g) m.p. 161°, was collected and recrystallised from ethanol as a colourless microcrystalline solid (10.1 g) m.p. 162°. Analysis Found: C, 42.6; H, 6.3; N, 16.4. C12H20N4O3S.HCl requires: C, 42.8; H, 6.2; N, 16.6%.

reactant | 2-[[[5-(methylamino)methyl-2-furanyl]methyl]thio]ethanamine | 0.05 mole, 10 g | CNCC1=CC=C(O1)CSCCN | C9H16N2OS
reactant | N-methyl-1-methylthio-2-nitroetheneamine | 7.4 g | CNC(=C[N+](=O)[O-])SC | C4H8N2O2S
reactant | Acetone | 350 ml | CC(=O)C | C3H6O
solvent | water | 25 ml | O | H2O
product | N-Methyl-1-methylthio-2-nitroethanamine | CNC(C[N+](=O)[O-])SC | C4H10N2O2S
